Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of severe iron-deficiency anemia in the setting of 
oligometastatic colon cancer, HTN and PE on apixaban who is 
presenting with shortness of breath. 

He was seen in the ED 1 week prior with dyspnea, found to have 
Hct 22 and transfused 2u pRBC and discharged. Since then, he has 
had progressive worsening of shortness of breath. He denies 
cough, fever, black or bloody stool that isn't normal based on 
his iron pill intake, n/v/d. 

Oncologic Hx: Stage I colon cancer s/p resection ___ with 
oligometastatic recurrence ___, now ___ years s/p chemotherapy. 


He has a long standing history of ___, prior workup (including 
EGD ___ attributed it to angioectasia + anticoagulation 
leading to chronic slow GI bleed.
 
Past Medical History:
B12 deficiency
PE now on rivaroxaban
DM
History of trauma induced Horner's syndrome, s/p sympathectomy
HTN
HLD
History of prior GI bleed from AV malformations status post
colonoscopies in ___ and ___ angiotectasia coagulated and
gastritis ___ EGD
___ ___ GI bleed
Beta-thalassemia
Hypothyroidism
Oncologic hx as above
 
Social History:
___
Family History:
Has 2 girls who have MS as does his wife. No family history of
malignancy.
 
Physical Exam:
ADMISSION EXAM
============================
VITALS:  98.7 140/62 101 18 94 Ra 
GENERAL: AOx3, NAD  
HEENT: EOMI, MMM, mild conjunctival pallor, no scleral icterus, 
r
eyelid droops @ baseline
CV: RRR nl s1/s2, no mrg, no JV distension
PULM: CTA b/l, no w/r/c
GI: S/ND/NT, BS normoactive, no HSM
EXT: WWP, cap refill sluggish, non-edematous
SKIN: no rashes noted
 
DISCHARGE EXAM
============================
Vitals: Temp: 98.6 PO HR: 78 BP: 155/80 RR: 16 O2 sat: 96% O2
delivery: RA 
General: Older appearing man, anxious and restless, but in no
acute distress. AAOx3.
HEENT: Normocephalic, atraumatic. EOMI. MMM.
Cardiac: Regular rate & rhythm. Normal S1/S2. No murmurs, rubs,
or gallops.
Pulmonary: Slightly tachypneic but otherwise clear to
auscultation bilaterally, no wheezes.
Abdomen: Well healed surgical incision. Firm but without
significant pain or distension.
Extremities: 2+ lower extremity edema above the ankles. Warm,
well perfused.
 
Pertinent Results:
ADMISSION LABS
=========================
___ 01:16PM BLOOD WBC-11.4* RBC-3.37* Hgb-7.2* Hct-24.3* 
MCV-72* MCH-21.4* MCHC-29.6* RDW-20.8* RDWSD-53.8* Plt ___
___ 01:16PM BLOOD Neuts-77.5* Lymphs-10.1* Monos-9.5 
Eos-1.7 Baso-0.5 Im ___ AbsNeut-8.81* AbsLymp-1.15* 
AbsMono-1.08* AbsEos-0.19 AbsBaso-0.06
___ 01:16PM BLOOD ___ PTT-29.0 ___
___ 01:16PM BLOOD Glucose-105* UreaN-16 Creat-0.7 Na-133* 
K-4.5 Cl-94* HCO3-26 AnGap-13
___ 01:16PM BLOOD cTropnT-<0.01 proBNP-265
___ 01:16PM BLOOD Calcium-9.1 Phos-3.1 Mg-2.0 Iron-16*
___ 01:16PM BLOOD calTIBC-498* Ferritn-19* TRF-383*
___ 01:37PM BLOOD ___ Comment-GREEN TOP
___ 01:37PM BLOOD Lactate-2.9*
 
PERTINENT LABS
=========================
___ 05:11AM BLOOD WBC-11.1* RBC-3.42* Hgb-7.6* Hct-25.0* 
MCV-73* MCH-22.2* MCHC-30.4* RDW-21.0* RDWSD-54.8* Plt ___
___ 01:16PM BLOOD ___ PTT-29.0 ___
___ 05:11AM BLOOD Glucose-154* UreaN-16 Creat-0.8 Na-129* 
K-4.7 Cl-90* HCO3-26 AnGap-13
___ 01:16PM BLOOD cTropnT-<0.01 proBNP-265
___ 09:34PM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:11AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:11AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.9
___ 01:16PM BLOOD calTIBC-498* Ferritn-19* TRF-383*
___ 01:37PM BLOOD Lactate-2.9*
___ 09:45PM BLOOD Lactate-2.1*
 
DISCHARGE LABS
=========================
___ 05:11AM BLOOD WBC-11.1* RBC-3.42* Hgb-7.6* Hct-25.0* 
MCV-73* MCH-22.2* MCHC-30.4* RDW-21.0* RDWSD-54.8* Plt ___
___ 05:11AM BLOOD Glucose-154* UreaN-16 Creat-0.8 Na-129* 
K-4.7 Cl-90* HCO3-26 AnGap-13
___ 05:11AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.9
 
PERTINENT STUDIES
=========================
CXR (___)
Pulmonary vasculature is mildly engorged.  Vague opacity at the 
right lung 
apex projecting over the anterior first rib could be 
superimposition of normal structures or a new but subtle lung 
lesion.  If the clinical situation does not clarify, chest CT 
would be reasonable. Heart is top-normal size.  There is no 
pleural effusion or pneumothorax. 
 
MICRO
=========================
___ 1:16 pm BLOOD CULTURE
   Blood Culture, Routine (Pending):
 
Brief Hospital Course:
___ man with PMHx of severe iron deficiency anemia, 
oligometastatic colon cancer s/p colectomy and partial liver 
resection (now in remission), prior small intestinal bleeds, 
HTN/HLD, and PE on apixaban admitted for persistent dyspnea most 
likely multi-factorial in nature, with major component due to 
severe iron deficiency anemia and mild hypervolemia. Received 2U 
pRBC and IV iron infusion as well as IV Lasix x1. Symptoms 
improved with reassuring oxygenation and so discharged home with 
plan for PCP follow up.

# DYSPNEA
Presented for persistent exertional dyspnea that has been 
ongoing problem for weeks-months. Likely multifactorial 
including subacutely worse anemia, underlying moderate pulmonary 
hypertension with mild hypervolemia, emphysema, as well as 
anxiety. Mildly volume overload on exam though without evidence 
of acute decompensated heart failure, proBNP negative. EKG and 
troponins reassuring. Overall low concern for recurrent 
pulmonary embolism as dyspnea is more sub-acute / chronic in 
nature and was without significant hypoxia at rest or with 
exertion. Received 2U pRBC and IV iron infusion. Further 
received 40 IV Lasix x1 for mild volume overload. Symptoms 
overall improved and so discharged home with plan for increased 
maintenance Lasix dose until PCP follow ___ require ongoing 
treatment for persistent anemia in setting of iron deficiency 
and likely chronic slow GI bleeding.

# ANEMIA
# Hx GI BLEEDING
Likely component of slow GI losses given history of small bowel 
angioectasias and iron deficiency anemia refractory to home iron 
supplementation. No evidence of acute or emergent GI bleed- no 
hemoptysis, melena, BRBPR. Also with possible contribution from 
reported history of beta thalassemia though unclear to what 
extent this is responsible for symptoms. Of note is systemically 
anti-coagulated for prior PE though no evidence of significant 
acute blood loss. s/p 2U pRBC during admission as well as IV 
iron infusion. Continued home oral iron supplement at discharge.

# HYPONATREMIA
Likely hypervolemic related to held Lasix doses. Received 40 IV 
Lasix x1. Discharged on 40 mg Po Lasix daily. 

CHRONIC ISSUES
=================================

# COLON CANCER, STAGE I
Complicated by previous oligometastases. No evidence of disease 
recurrence; his next surveillance colonoscopy is due in ___.

# HISTORY OF PE
Acutely stable, per discussion above. Continued apixaban. 

# HYPOTHYROIDISM
- Levothyroxine Sodium 175 mcg PO/NG DAILY

# DEPRESSION
- Sertraline 100 mg PO/NG DAILY

# CALCIUM PYROPHOSPHATE DEPOSITION DISEASE
- Colchicine 0.6 mg PO/NG DAILY

# ANXIETY
- LORazepam 1 mg PO/NG BID:PRN insomnia or anxiety

# NUTRITIONAL
- Vitamin D ___ units PO/NG DAILY
- Cyanocobalamin 1000 mcg PO/NG DAILY

# HYPERLIPIDEMA
- Pravastatin 20 mg PO QPM

TRANSITIONAL ISSUES
=================================
- Discharge weight: 95.8 kg (211.2 lbs)
- Discharge Cr: 0.8

[ ] Please repeat CBC and Chem-10 to ensure anemia is stable and 
hyponatremia are stable to improved. 

[ ] Increased Lasix to 40 mg PO daily until time of PCP follow 
up. ___ re-assess weight / volume status and titrate 
accordingly. 

[ ] Recommend setting up outpatient iron transfusions and repeat 
follow up with Dr. ___ further management and work up of 
patients anemia. Oral iron supplementation seems to have failed, 
although could trial dosage increase of PO iron. If anemia 
continues to be refractory, persistently may also benefit from 
GI referral to re-assess prior angioectasias / possible repeat 
push enteroscopy. 

[ ] Recommend ongoing IV iron infusions given that ferritin 
remains low despite oral supplementation.

#CONTACT: ___ (wife: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Colchicine 0.6 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Levothyroxine Sodium 175 mcg PO DAILY 
7. LORazepam 1 mg PO BID:PRN insomnia or anxiety 
8. Pravastatin 20 mg PO QPM 
9. Sertraline 100 mg PO DAILY 
10. acetaminophen-codeine 300-30 mg oral TID:PRN pain 
11. albuterol sulfate 90 mcg/actuation inhalation QID:PRN 
12. cholecalciferol (vitamin D3) ___ units oral DAILY 
13. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1.  Furosemide 40 mg PO DAILY  
2.  acetaminophen-codeine 300-30 mg oral TID:PRN pain  
3.  albuterol sulfate 90 mcg/actuation inhalation QID:PRN  
4.  Apixaban 5 mg PO BID  
5.  cholecalciferol (vitamin D3) ___ units oral DAILY  
6.  Colchicine 0.6 mg PO DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Levothyroxine Sodium 175 mcg PO DAILY  
10.  LORazepam 1 mg PO BID:PRN insomnia or anxiety  
11.  Omeprazole 40 mg PO DAILY  
12.  Pravastatin 20 mg PO QPM  
13.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
dyspnea from symptomatic anemia, volume overload

SECONDARY DIAGNOSES
hyponatremia
iron deficiency anemia
beta thalassemia
history of pulmonary embolism
history of GI bleeding
stage 1 colon cancer with oligometastasess/p colectomy, liver 
resection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were in the hospital:
- worsening shortness of breath
- low red blood cell levels

What was done for you in the hospital:
- We gave you an iron infusion through the IV
- We gave you two blood transfusions to improve your red blood 
cell counts
- We obtained blood tests and an EKG. The results were 
reassuring and showed that there was no recent damage to your 
heart to account for your shortness of breath.
- We gave you IV Lasix to help remove extra fluid from your 
body.

What you should do when get you get home:
- Check your weight when you get home and monitor every day 
thereafter. If rising more than 3 lbs please contact your PCP to 
discuss your Lasix dose.
- Call your regular doctor ___ to schedule an appointment 
within 1 week of discharge - see details below in the 
appointments section.
- Take your medications as detailed in the discharge papers.
- Monitor for worsening symptoms and call your doctor or return 
to the hospital if concerned.

We wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___